US06790860B2
A slurry of 300 mg (0.73 mmol) (2S,4R)-methanesulfonic acid 1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl ester and 109 mg (0.73 mmol) of NaI in 3 ml DMF at 0° C. was treated with 0.35 ml (2.93 mmol) benzylmercaptane and 96 mg (2.2 mmol) 55% NaH. The reaction was warmed up during 2 h to room temperature: and worked up with aqueous saturated NH4Cl solution/EtOAc (3×). The organic phase was dried over Na2SO4, evaporated and purified by crystallization (Et2O) to give 158 mg (49%) of (2S,4R)-2-benzylsulfanylmethyl-1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidine, mp 69-71° C., MS: 438 (MH+).

reactant | (2S,4R)-methanesulfonic acid 1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidin-2-ylmethyl ester | 0.73 mmol, 300 mg | CS(=O)(=O)N1[C@@H](C[C@H](C1)SCC1=CC=C(C=C1)OC)COS(=O)(=O)C | C15H23NO6S3
reactant | NaI | 0.73 mmol, 109 mg | [Na+].[I-]
reactant | NaH | 2.2 mmol, 96 mg | [H-].[Na+]
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | (2S,4R)-2-benzylsulfanylmethyl-1-methanesulfonyl-4-(4-methoxy-benzylsulfanyl)-pyrrolidine | 158 mg, 49% | C(C1=CC=CC=C1)SC[C@H]1N(C[C@@H](C1)SCC1=CC=C(C=C1)OC)S(=O)(=O)C | C21H27NO3S3
